US05532367
This compound is prepared in a manner analogous to that of Step B of Example 4, using 1.1 grams (0.003 mole) of 2-amino-3-cyano-5-[3,5-di(trifluoromethyl)phenyl]-6-methylpyrazine and 1.3 grams (0.007 mole) of guanidine carbonate in 10 mL of N,N-dimethylacetamide, yielding 2,4-diamino-6-[3,5-di(trifluoromethyl)phenyl]-7-methylpteridine.

reactant | 2-amino-3-cyano-5-[3,5-di(trifluoromethyl)phenyl]-6-methylpyrazine | 0.003 mole, 1.1 grams | NC1=NC(=C(N=C1C#N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C14H8F6N4
reactant | guanidine carbonate | 0.007 mole, 1.3 grams | C(O)(O)=O.NC(=N)N
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2,4-diamino-6-[3,5-di(trifluoromethyl)phenyl]-7-methylpteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C15H10F6N6
